US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-phenyl-2-propen-1-one
The title compound was prepared by heating a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and benzaldehyde (64 ul, 0.633 mmol) similar to Example 1 and isolated as a yellow solid (7.2 mg, 2.8%). 1H NMR (CDCl3): 7.70 (d, J=16.2 Hz, 1H), 7.62-7.59 (m, 2H), 7.45 (d, J=15.9 Hz, 1H), 7.41 (t, J=3.2 Hz, 3H), 7.29 (d, J=3.3 Hz, 1H), 7.13 (dd, J=3.3, 9.3 Hz, 1H), 6.96 (d, J=9.0 Hz, 1H), 4.45-4.34 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | benzaldehyde | 0.633 mmol, 64 ul | C(C1=CC=CC=C1)=O | C7H6O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-phenyl-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC=CC=C1)=O)(F)F | C19H14F6O3
